US04342704
36.6 g (0.495 mol) of tert.-butanol were added dropwise, at 20°-30° C., to a mixture of 6.3 g (0.165 mol) of lithium aluminum hydride and 100 ml of tetrahydrofuran in the course of 1 hour. The mixture was subsequently stirred for 2 hours at room temperature and was then added dropwise, at -50° to -60° C., to a solution of 26.1 g (0.15 mol) of trans-3,3-dimethyl-2-acetyl-cyclopropanecarboxylic acid chloride in 75 ml of tetrahydrofuran. When the addition was complete, the mixture was subsequently stirred for 1 hour, without cooling, and poured onto a mixture of 30 ml of concentrated sodium chloride and 300 g of ice, and extraction was carried out by shaking with twice 400 ml of ether. The organic phases were washed first with 50 ml of saturated sodium bicarbonate solution and then with 100 ml of water, dried over sodium sulphate and evaporated in vacuo. 12.7 g (62% of theory) of trans-3,3-dimethyl-2-acetyl-cyclopropanecarboxaldehyde were obtained, by vacuum distillation of the residue, in the form of a colorless oil having a boiling point of 80° -86° C./10 mbar.

reactant | tert.-butanol | 0.495 mol, 36.6 g | C(C)(C)(C)O | C4H10O
reactant | lithium aluminum hydride | 0.165 mol, 6.3 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | trans-3,3-dimethyl-2-acetyl-cyclopropanecarboxylic acid chloride | 0.15 mol, 26.1 g | CC1([C@H]([C@@H]1C(=O)Cl)C(C)=O)C | C8H11ClO2
reactant | sodium chloride | 30 ml | [Cl-].[Na+]
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | ether | 400 ml | CCOCC | C4H10O
product | trans-3,3-dimethyl-2-acetyl-cyclopropanecarboxaldehyde | 12.7 g, 62% | CC1([C@H]([C@@H]1C=O)C(C)=O)C | C8H12O2
